US04536346
4-(p-Methylhydrocinnamamido)benzoic acid, ethyl ester
A solution of 15 g. of 3-(4-methylphenyl)propionyl chloride in 100 ml. of dichloromethane is created with stirring with a solution of 15 g. of benzocaine and 9.13 g. of triethylamine in 100 ml. of dichloromethane. The mixture is stirred overnight, then washed with 100 ml. each of 10% hydrochloric acid, water, and brine, then dried with magnesium sulfate, and evaporated to yield a solid. This solid is crystallized from 200 ml. of acetonitrile and dried in vacuo, giving 22.08 g. of the desired product, m.p. 154°-155° C.

reactant | 3-(4-methylphenyl)propionyl chloride | CC1=CC=C(C=C1)CCC(=O)Cl | C10H11ClO
reactant | benzocaine | CCOC(=O)C=1C=CC(=CC1)N | C9H11NO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(p-Methylhydrocinnamamido)benzoic acid, ethyl ester | CC1=CC=C(CCC(=O)NC2=CC=C(C(=O)OCC)C=C2)C=C1 | C19H21NO3
